US08859732B2
2-Methoxy-4-[3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy]benzaldehyde (272 mg, 0.26 mmol) was suspended in chloroform-methanol (6 ml+0.5 ml), and sodium borohydride (29 mg, 0.77 mmol) was added. After stirring at 60° C. overnight, the mixture was dissolved in chloroform (12 ml), and washed with 0.5N hydrochloric acid (8 ml) and pure water (8 ml). The solvent was evaporated, and the residue was precipitated with acetonitrile (2.5 ml) to give 2-methoxy-4-[3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy]benzyl alcohol (260 mg, 0.25 mmol, 95%).

reactant | 2-Methoxy-4-[3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy]benzaldehyde | 0.26 mmol, 272 mg | COC1=C(C=O)C=CC(=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H128O6
reactant | sodium borohydride | 0.77 mmol, 29 mg | [BH4-].[Na+]
solvent | chloroform methanol | 6 ml | C(Cl)(Cl)Cl.CO
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxy-4-[3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy]benzyl alcohol | 0.25 mmol, 260 mg, 95% | COC1=C(CO)C=CC(=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H130O6
